Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[O:1]=[C:2]([C:3]([H:4])[H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[C:3]([H:4])[H:5].[O:1]=[C:2][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],5.22549785296
[O:1]=[C:2][C:3](=[C:4]=[O:5])[C:6]([H:7])([H:8])[H:9]>>[C:3](#[C:4][O:5])[C:6]([H:7])([H:8])[H:9].[O:1]=[C:2],1.10203224416
[H:1][C:2]#[C:3][O:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[H:10].[H:1][C:2]#[C:3][O:4][C:5]([H:6])([H:7])[C:8]([H:9])[C:11]([H:12])([H:13])[H:14],4.42829963392
[H:1][C:2]#[C:4][O:5]/[C:6]=[C:7](\[H:8])[C:9]([H:10])([H:11])[H:12].[H:3]>>[H:1][C:2]([H:3])=[C:4][O:5]/[C:6]=[C:7](\[H:8])[C:9]([H:10])([H:11])[H:12],-2.5266056804
[H:1][C:2]=[C:3]([O:4][O:5][H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[H:12]>>[C:7]([H:8])([H:9])=[C:10]([H:11])[H:12].[H:1][C:2]#[C:3][O:4][O:5][H:6],-0.921375366549
[C:2]=[C:3]([O:4][C:5][H:6])[C:7]([H:8])([H:9])[H:10].[O:1]>>[O:1]=[C:2]=[C:3]([O:4][C:5][H:6])[C:7]([H:8])([H:9])[H:10],-7.68275858008
[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[O:8][O:9][H:10]>>[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[O:8].[O:9][H:10],3.07318105686
[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[O:7][C:8]([H:9])[C:10]([H:11])([H:12])[H:13]>>[C:10]([H:11])([H:12])[H:13].[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[O:7][C:8][H:9],3.6274726402
[C:3]=[C:4]([H:5])[H:6].[O:1]=[C:2][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13]>>[O:1][C:2](=[C:3]=[C:4]([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],-3.4071872856700005
[H:1][O:2][C:3]([H:4])([H:5])[C@@:6]([H:7])([O:8][C:9]([H:10])([H:11])[H:12])[C:13]([H:14])[H:15]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([O:8][C:9]([H:10])([H:11])[H:12])=[C:13]([H:14])[H:15].[H:7],1.79264564786
[C:1]#[C:2][O:3][C:4]([H:5])[C:6](=[O:7])[H:8]>>[C:1]#[C:2][O:3][C:4][C:6](=[O:7])[H:8].[H:5],5.0520556697400005
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])[O:8][C:9]([H:10])=[C:11]([H:12])[H:13]>>[H:10].[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])[O:8][C:9]=[C:11]([H:12])[H:13],4.61937162296
[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16].[O:1]=[C:2]([H:3])[C:4]([H:5])[H:6]>>[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],-3.60985045375
[H:1][C:2][O:3][C:4][C:6]([H:7])([H:8])[C:9]=[C:10]([H:11])[H:12].[H:5]>>[H:1][C:2][O:3][C:4]([H:5])[C:6]([H:7])([H:8])[C:9]=[C:10]([H:11])[H:12],-4.812252587980001
[C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[H:13].[O:1]>>[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[H:13],-4.15999409
[H:1][C:2][O:4][C:5]#[C:6][C:7]([H:8])([H:9])[C:10]([H:11])[H:12].[H:3]>>[H:1][C:2]([H:3])[O:4][C:5]#[C:6][C:7]([H:8])([H:9])[C:10]([H:11])[H:12],-4.27910354476
[O:1][C@@:2]([H:3])([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])=[C:13]([H:14])[H:15]>>[H:3].[O:1]=[C:2]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])=[C:13]([H:14])[H:15],0.8748957294059999
[C:3][H:4].[H:1][C:2]([H:5])[C:6]([H:7])=[C:8]([H:9])[H:10]>>[H:1][C:2][C:3]([H:4])([H:5])[C:6]([H:7])=[C:8]([H:9])[H:10],-4.94431392881
[C:9]([H:10])[H:11].[H:1][C:2]#[C:3][O:4][C:5]=[C:6]([H:7])[H:8]>>[H:1][C:2]#[C:3][O:4][C:5][C:6]([H:7])([H:8])[C:9]([H:10])[H:11],-3.5669062510500003
[C:10]([H:11])([H:12])[H:13].[H:1][C:2]#[C:3][C:4]#[C:5][C:6]([H:7])([H:8])[H:9]>>[H:1][C:2]#[C:3]/[C:4](=[C:5]/[C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-1.20390814092
[C:1]#[C:2][C:3]([H:4])[C:5]([H:6])=[C:7]=[C:8]([H:9])[H:10]>>[C:1][C:2]#[C:3]/[C:5]([H:6])=[C:7]/[C:8]([H:9])[H:10].[H:4],4.76527046865
[C:2](#[C:3][O:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[H:1]>>[H:1]/[C:2](=[C:3]\[O:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-2.10513907739
[H:6].[O:1]=[C:2]([H:3])[O:4][C:5]#[C:7][C:8]([H:9])([H:10])[H:11]>>[O:1]=[C:2]([H:3])[O:4]/[C:5]([H:6])=[C:7]\[C:8]([H:9])([H:10])[H:11],-2.21935501583
[H:1][C:2]#[C:3][C:4](=[C:5]=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13].[H:6]>>[H:1][C:2]#[C:3][C:4]([C:5]([H:6])=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-3.12191538065
[C:1]#[C:2][O:3][C:4]([H:5])[O:6][H:7].[C:8]([H:9])([H:10])[H:11]>>[C:1]#[C:2][O:3][C@@:4]([H:5])([O:6][H:7])[C:8]([H:9])([H:10])[H:11],-3.45640273958
[C:10]([H:11])[O:12][H:13].[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])[H:9]>>[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[O:12][H:13],-3.5921162858099995
[H:1][C:2][O:3][C:4]#[C:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12]>>[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12].[H:1][C:2][O:3][C:4]#[C:5],5.45541620734
[O:1]=[C:2]/[C:3]([H:4])=[C:5](\[H:6])[C:9]([H:10])([H:11])[H:12].[O:7][H:8]>>[O:1]=[C:2]=[C:3]([H:4])[C@:5]([H:6])([O:7][H:8])[C:9]([H:10])([H:11])[H:12],-5.0459506822
[H:3].[O:1]=[C:2][O:4][C@:5]([H:6])([C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[O:1]=[C:2]([H:3])[O:4][C@@:5]([H:6])([C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-4.19157922888
